US07601850B2
Preparation of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid propionyl-amide
A mixture of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid amide (330 mg, 0.73 mmol), EDCI (210 mg, 1.1 mmol), propionic acid (82 μL, 1.1 mmol) and DMAP (50 mg) in dichloromethane (10 ml) is stirrred overnight. The reaction is diluted with dichloromethane and washed with 1N HCl. The organic phase is concentrated and chromatographed (Hex to 30% EtOAc/Hex) to give the title compound (92%).

reactant | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid amide | 0.73 mmol, 330 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)=O)(C)C | C23H33NO4S2
reactant | EDCI | 1.1 mmol, 210 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | propionic acid | 1.1 mmol, 82 μL | C(CC)(=O)O | C3H6O2
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid propionyl-amide | 92% | C(CC)(=O)NS(=O)(=O)C=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C | C26H37NO5S2
